US07253286B2
N-(4-(7-Benzyloxy-6-cyano-quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea
Cyclopropylamine (1 ml) was added to dimethylformamide (10 ml), and then (4-(7-benzyloxy-6-cyano-quinolin-4-yloxy)-2,3-dimethylphenyl)carbamic acid phenyl ester (1.99 g) was added thereto and the mixture was stirred at room temperature for 10 minutes. Water (30 ml) and ethyl acetate (30 ml) were added, and the precipitated crystals were filtered out and washed with ethyl acetate to obtain the title compound (1660 mg).

reactant | Cyclopropylamine | 1 ml | C1(CC1)N | C3H7N
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | (4-(7-benzyloxy-6-cyano-quinolin-4-yloxy)-2,3-dimethylphenyl)carbamic acid phenyl ester | 1.99 g | C1(=CC=CC=C1)OC(NC1=C(C(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1=CC=CC=C1)C)C)=O | C32H25N3O4
reactant | Water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-(7-Benzyloxy-6-cyano-quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea | 1660 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(C=C1)NC(=O)NC1CC1)C)C)C#N | C29H26N4O3
